US05623073
STEP A: 2-Amino-4-(4-chlorophenacyl)-1-(2-morpholinoethyl)benzimidazolium bromide
A solution of 2.33 g (10 mmol) of 4-chlorophenacyl bromide in 25 ml of acetone is added to a hot solution of 2-amino-1-(2-morpholinoethyl)benzimidazole (2.46 g, 10 mmol) in 75 ml of acetone. The mixture is stirred, heated at the boil for 5 minutes and maintained at room temperature. Three hours later a precipitate of the title compound appears, which is filtered and washed with acetone and with ether.

reactant | 4-chlorophenacyl bromide | 10 mmol, 2.33 g | ClC1=CC=C(C(CBr)=O)C=C1 | C8H6BrClO
reactant | 2-amino-1-(2-morpholinoethyl)benzimidazole | 10 mmol, 2.46 g | NC1=NC2=C(N1CCN1CCOCC1)C=CC=C2 | C13H18N4O
solvent | acetone | 25 ml | CC(=O)C | C3H6O
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | 2-Amino-4-(4-chlorophenacyl)-1-(2-morpholinoethyl)benzimidazolium bromide | Yield: 95% | [Br-].NC=1NC2=C([N+]1CCN1CCOCC1)C=CC=C2CC(=O)C2=CC=C(C=C2)Cl | InChI=1S/C21H23ClN4O2.BrH/c22-17-6-4-15(5-7-17)19(27)14-16-2-1-3-18-20(16)24-21(23)26(18)9-8-25-10-12-28-13-11-25;/h1-7H,8-14H2,(H2,23,24);1H
